US07323604B2
(R)-3-(benzyloxymethyl)cyclopentanone:
Prepared according to the general procedure from 3-(benzyloxymethyl)cyclopent-2-enone (202 mg, 1 mmol) for 24 h at 0° C. After the reaction mixture was passed though a short pad of silica gel, the resulting solution was poured into 5 mL of a 10% HCl solution and diluted with 5 mL of Et2O. The organic layer was washed with 5 mL of a 10% HCl solution (4×) and with 5 mL of water (1×). The resulting solution was dried over MgSO4 and concentrated in vacuo to provide the title compound as a colorless oil (155 mg, 76% yield, 91% ee) after purification by flash chromatography on silica gel (15% Et2O/pentane). The enantiomeric ratio was determined by GLC using a Hydrodex-B-TBDAc (50 m×0.25 mm) column (150° C. isotherm, 1 mL/min.); (S) isomer tr=151.2 min. and (R) isomer tr=153.2 min. IR (film) 3030, 2860, 1740, 1404, 1100 cm−1; 1H NMR (300 MHz, CDCl3) δ 7.42-7.28 (m, 5H), 4.55 (s, 2H), 3.51 (d, 2H, J=6.3 Hz), 2.61-2.49 (m, 1H), 2.44-2.25 (m, 2H), 2.23-2.01 (m, 3H), 1.84-1.71 (m, 1H); 13C NMR (75 MHz, CDCl3) δ 219.2, 138.1, 128.3, 127.4, 126.8, 73.2, 73.0, 41.9, 37.8, 36.7, 26.0; HRMS (EI+) exact mass calculated for [M]+ (C13H16O2) requires m/z 204.1150, found m/z 204.1144; [α]D22=+31.2° (c=1.0, CHCl3).

reactant | 3-(benzyloxymethyl)cyclopent-2-enone | 1 mmol, 202 mg | C(C1=CC=CC=C1)OCC1=CC(CC1)=O | C13H14O2
reactant | HCl | Cl | ClH
solvent | Et2O | 5 mL | CCOCC | C4H10O
product | (R)-3-(benzyloxymethyl)cyclopentanone | 155 mg, 76% yield | C(C1=CC=CC=C1)OC[C@H]1CC(CC1)=O | C13H16O2
